US09428511B2
To a suspension of (3S,4S)-benzyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-(fluoromethyl)pyrrolidine-1-carboxylate (240 mg, 0.488 mmol) in acetonitrile (3 ml) at 0° C. was added iodotrimethylsilane (0.266 ml, 1.954 mmol) dropwise. The reaction mixture was stirred at 0° C. for 10 min and at room temperature for 1.5 h. The reaction was cooled to 0° C. and quenched with MeOH (2 ml). The resulting suspension was stirred at 0° C. for 30 min, filtered, washed with ethyl ether, and dried under vacuum to afford 2-bromo-8-(((3S,4S)-4-(fluoromethyl)pyrrolidin-3-yl)amino)imidazo[1,2-b]pyridazine-7-carboxamide, hydroiodide as an off-white solid. ESI-MS (analytical LCMS Method A): m/z 357.0 ([M+H]+).

reactant | (3S,4S)-benzyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-(fluoromethyl)pyrrolidine-1-carboxylate | 0.488 mmol, 240 mg | BrC=1N=C2N(N=CC(=C2N[C@@H]2CN(C[C@@H]2CF)C(=O)OCC2=CC=CC=C2)C(N)=O)C1 | C20H20BrFN6O3
reactant | iodotrimethylsilane | 1.954 mmol, 0.266 ml | I[Si](C)(C)C | C3H9ISi
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 2-bromo-8-(((3S,4S)-4-(fluoromethyl)pyrrolidin-3-yl)amino)imidazo[1,2-b]pyridazine-7-carboxamide, hydroiodide | I.BrC=1N=C2N(N=CC(=C2N[C@@H]2CNC[C@@H]2CF)C(=O)N)C1 | InChI=1S/C12H14BrFN6O.HI/c13-9-5-20-12(19-9)10(7(3-17-20)11(15)21)18-8-4-16-2-6(8)1-14;/h3,5-6,8,16,18H,1-2,4H2,(H2,15,21);1H/t6-,8+;/m0./s1
